US05977105
(±)-(E)-1-(4-(2-Phenylethenyl)phenoxy)-4-(3-pyridyl)-2-butanol
Prepared according to the method described in Example 24b) from trans-4-hydroxystilbene (2.6 g), (±)-α-(chloromethyl)-3-pyridinepropanol (2.5 g) and sodium hydroxide (0.54 g) in ethanol (50 ml) and water (10 ml) at reflux for 2 hours to give the title compound as a solid (1.84 g)

reactant | trans-4-hydroxystilbene | 2.6 g | OC1=CC=C(C=C1)\C=C\C1=CC=CC=C1 | C14H12O
reactant | (±)-α-(chloromethyl)-3-pyridinepropanol | 2.5 g | ClCC(CCC=1C=NC=CC1)O | C9H12ClNO
reactant | sodium hydroxide | 0.54 g | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | (±)-(E)-1-(4-(2-Phenylethenyl)phenoxy)-4-(3-pyridyl)-2-butanol | 1.84 g | C1(=CC=CC=C1)/C=C/C1=CC=C(OCC(CCC=2C=NC=CC2)O)C=C1 | C23H23NO2
